US05359101
3-trimethylsilylpropyl 2-cyanoacetate (31.84 g, 0.16 moles) prepared as described in Example 1, was added dropwise over 10 minutes to a stirred solution of paraformaldehyde (4.8 g, 0.16 moles formaldehyde) and piperidine (0.12 g) in n-butylacetate at 70° C. The mixture was heated under reflux in a Dean-Stark apparatus until the quantitative amount of water expected from formaldehyde condensation had been collected (2.8 g). The mixture was allowed to cool and phosphorous pentoxide (0.57 g), p-toluenesulfonic acid (1.09 g) and 1,4-hydroquinone (2.18g) were added. The solvent was removed by distillation under reduced pressure to yield a viscous, orange/yellow coloured liquid. The liquid was fractionated under reduced pressure to give crude monomer (16.80 g b.p. 150°-180° C. at 0.7-10 mbar). Vacuum distillation of the crude material onto a catalytic quantity of methanesulfonic acid and 1,4-hydroquinone (10-4 g) afforded the pure product 3-trimethylsilylpropyl 2-cyanoacrylate as a slightly yellow coloured reactive liquid (12.45 g, 37%).

reactant | 3-trimethylsilylpropyl 2-cyanoacetate | 0.16 moles, 31.84 g | C(#N)CC(=O)OCCC[Si](C)(C)C | C9H17NO2Si
reactant | paraformaldehyde | 0.16 moles, 4.8 g | C=O | CH2O
reactant | piperidine | 0.12 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | n-butylacetate | C(CCC)OC(C)=O | C6H12O2
product | 3-trimethylsilylpropyl 2-cyanoacrylate | C(#N)C(C(=O)OCCC[Si](C)(C)C)=C | C10H17NO2Si
